US08754226B2
To a solution of tert-butyl-4-(3-(4-(5-methyl-1H-tetrazol-1-yl)phenoxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate (621 mg, 1.4 mmol) in DCM (15 mL) was added excess 4N HCl in dioxane (5 mL). The reaction was stirred for 4 hours and then concentrated in vacuo to yield (S)-3-(4-(5-methyl-1H-tetrazol-1-yl)phenoxy)-1-(piperidin-4-yl)pyrrolidin-2-one hydrochloride salt (501 mg, 94%) as an off white solid, which was used without any further purification.

reactant | tert-butyl-4-(3-(4-(5-methyl-1H-tetrazol-1-yl)phenoxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate | 1.4 mmol, 621 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(C(CC1)OC1=CC=C(C=C1)N1N=NN=C1C)=O | C22H30N6O4
reactant | HCl | 4N | Cl | ClH
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | (S)-3-(4-(5-methyl-1H-tetrazol-1-yl)phenoxy)-1-(piperidin-4-yl)pyrrolidin-2-one hydrochloride salt | 501 mg, 94% | Cl.CC1=NN=NN1C1=CC=C(O[C@@H]2C(N(CC2)C2CCNCC2)=O)C=C1 | InChI=1S/C17H22N6O2.ClH/c1-12-19-20-21-23(12)14-2-4-15(5-3-14)25-16-8-11-22(17(16)24)13-6-9-18-10-7-13;/h2-5,13,16,18H,6-11H2,1H3;1H/t16-;/m0./s1
